US07446117B2
4-(Trifluoromethyl)-6-[4-(methylthio)phenyl]-2-pyridone
To a stirred solution of diisopropylamine (11.5 mL, 81.8 mmol) in THF (75 mL) at 0° C. was added n-butyllithium (51.1 mL of a 1.6M solution in hexanes, 81.8 mmol). After stirring for 15 minutes, a solution of 4,4,4-trifluoro-3-methyl-2-butenoic acid (6.0 g, 38.9 mmol) in THF (10 mL) was added dropwise. The reaction was allowed to warm to room temperature and stirred for 30 minutes before being cooled to 0° C. and treated dropwise with a solution of 4-(methylthio)benzonitrile (2.91 g, 19.5 mmol) in THF (10 mL). Upon complete addition, the reaction was heated at reflux for 14 hours. After cooling, water (200 mL) was added and the mixture extracted with ethyl acetate (250 mL). The organic phase was dried over sodium sulfate, filtered and concentrated in vacuo and the resulting residue purified by silica chromatography eluting with 1:1 ethyl acetate/cyclohexane to give the title product (2.43 g) LC retention time 3.10 mins MS m/z 286 (MH+).

reactant | diisopropylamine | 81.8 mmol, 11.5 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | 4,4,4-trifluoro-3-methyl-2-butenoic acid | 38.9 mmol, 6.0 g | FC(C(=CC(=O)O)C)(F)F | C5H5F3O2
reactant | 4-(methylthio)benzonitrile | 19.5 mmol, 2.91 g | CSC1=CC=C(C#N)C=C1 | C8H7NS
solvent | THF | 75 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 200 mL | O | H2O
product | 4-(Trifluoromethyl)-6-[4-(methylthio)phenyl]-2-pyridone | 2.43 g | FC(C1=CC(NC(=C1)C1=CC=C(C=C1)SC)=O)(F)F | C13H10F3NOS
